US07585885B2
{(R)-5-[(1R,2S)-2-Acetylamino-3-(3,5-difluoro-phenyl)-1-hydroxy-propyl]-pyrrolidin-3-yl}-acetic acid hydrochloride
Combine (R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-carboxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.05 g, 0.101 mmol) and HCl (4M in dioxane, 1.88 mL, 7.55 mmol). Stir overnight. Concentrate under reduced pressure to provide the title compound (0.042 g, 92%).

reactant | (R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-carboxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.101 mmol, 0.05 g | C(C)(C)(C)OC(=O)N1[C@H](CC(C1)CC(=O)O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C25H34F2N2O6
reactant | HCl | 7.55 mmol, 4M, 1.88 mL | Cl | ClH
product | {(R)-5-[(1R,2S)-2-Acetylamino-3-(3,5-difluoro-phenyl)-1-hydroxy-propyl]-pyrrolidin-3-yl}-acetic acid hydrochloride | 0.042 g, 92% | Cl.C(C)(=O)N[C@H]([C@H](O)C1C[C@@H](CN1)CC(=O)O)CC1=CC(=CC(=C1)F)F | InChI=1S/C17H22F2N2O4.ClH/c1-9(22)21-15(4-10-2-12(18)7-13(19)3-10)17(25)14-5-11(8-20-14)6-16(23)24;/h2-3,7,11,14-15,17,20,25H,4-6,8H2,1H3,(H,21,22)(H,23,24);1H/t11-,14?,15+,17-;/m1./s1
